US04552882
Preparation of 7-(1-pyrrolyl)-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (stage D)
0.3 Gram of 7-amino-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid is suspended in 10 ml of acetic acid, 0.17 gram of dimethoxytetrahydrofuran is added and the mixture is heated until the solid has dissolved. The mixture is filtered, and water is added to the filtrate until it becomes turbid. The filtrate is allowed to cool, and the precipitate obtained is filtered off and washed with ethanol. 0.12 gram of a solid is obtained, of melting point 235°-238° C.

reactant | 7-amino-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | NC1=CC=C2C(C(=CN(C2=C1)CC)C(=O)O)=O | C12H12N2O3
reactant | dimethoxytetrahydrofuran | 0.17 gram | COC1(OCCC1)OC | C6H12O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-(1-pyrrolyl)-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.12 gram | N1(C=CC=C1)C1=CC=C2C(C(=CN(C2=C1)CC)C(=O)O)=O | C16H14N2O3
